US09079911B2
2-(4,6-Dimethylpyrimidin-2-yl)-5-[(3-fluoro-2-pyrimidin-2-ylphenyl)carbonyl]octahydropyrrolo[3,4-c]pyrrole
To a mixture of 2-(4,6-dimethyl-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole (1.4 g, 6.5 mmol), 3-fluoro-2-(pyrimidin-2-yl)benzoic acid (1.4 g, 6.5 mmol), and TEA (1.3 mL, 9.7 mmol) in DMF (32.0 mL) was added HATU (2.7 g, 7.1 mmol). After 1 h, the reaction mixture was diluted with EtOAc and washed with water. The aqueous layer was then extracted with EtOAc (1×). The combined organic phases were dried (Na2SO4), filtered and concentrated to dryness. The crude product was purified using silica gel chromatography (0-5% MeOH in EtOAc) to yield pure title compound (1.2 g, 44%). MS (ESI) mass calcd. For C23H23FN6O, 418.48; m/z found 419.2 [M+H]+. 1H NMR (CDCl3): 8.91-8.56 (m, 2H), 7.47-7.42 (m, 1H), 7.24-7.14 (m, 3H), 6.30 (s, 1H), 3.81 (dd, J=11.6, 7.2 Hz, 1H), 3.72 (ddd, J=9.0, 7.2, 2.2 Hz, 2H), 3.68-3.47 (m, 4H), 3.31 (dd, J=11.0, 4.8 Hz, 1H), 3.05-2.89 (m, 2H), 2.31 (s, 6H).

reactant | 2-(4,6-dimethyl-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole | 6.5 mmol, 1.4 g | CC1=NC(=NC(=C1)C)N1CC2CNCC2C1 | C12H18N4
reactant | 3-fluoro-2-(pyrimidin-2-yl)benzoic acid | 6.5 mmol, 1.4 g | FC=1C(=C(C(=O)O)C=CC1)C1=NC=CC=N1 | C11H7FN2O2
reactant | HATU | 7.1 mmol, 2.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 32.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4,6-Dimethylpyrimidin-2-yl)-5-[(3-fluoro-2-pyrimidin-2-ylphenyl)carbonyl]octahydropyrrolo[3,4-c]pyrrole | 1.2 g, 44% | CC1=NC(=NC(=C1)C)N1CC2CN(CC2C1)C(=O)C1=C(C(=CC=C1)F)C1=NC=CC=N1 | C23H23FN6O
